US04379154
A suspension, kept at 70° C., of 2-chloromethylquinoline hydrochloride (107 g) in ethanol (450 cc) is added dropwise and in the course of 15 minutes to a suspension of thiourea (45.5 g) in boiling ethanol (260 cc). The reaction mixture is stirred for 1 hour 30 minutes at the boil and then cooled to 20° C. The resulting crystals are filtered off, washed twice with ethanol (100 cc in total) and dried under reduced pressure (20 mm Hg; 2.7 kPa) at a temperature of about 20° C. 2-(Quinol-2-yl-methyl)-isothiourea dihydrochloride (141 g), melting at 250° C., is thus obtained.

reactant | 2-chloromethylquinoline hydrochloride | 107 g | Cl.ClCC1=NC2=CC=CC=C2C=C1
reactant | thiourea | 45.5 g | NC(=S)N | CH4N2S
solvent | ethanol | 450 cc | C(C)O | C2H6O
solvent | ethanol | 260 cc | C(C)O | C2H6O
product | 2-(Quinol-2-yl-methyl)-isothiourea dihydrochloride | 141 g | Cl.Cl.N1=C(C=CC2=CC=CC=C12)CSC(N)=N | InChI=1S/C11H11N3S.2ClH/c12-11(13)15-7-9-6-5-8-3-1-2-4-10(8)14-9;;/h1-6H,7H2,(H3,12,13);2*1H
